US07842685B2
Dess-Martin periodinane (0.524 g, 1.24 mmol) was added to a solution of 1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)propan-1-ol (0.500 g, 1.24 mmol) in dichloromethane (25.00 ml, 1.24 mmol), and the reaction was stirred at ambient temperature for 60 min. Saturated aq. NaHCO3 was added and the reaction stirred for 5 min. The organic layer was dried, filtered, and concentrated in vacuo and the residue purified by silica gel chromatography: ISCO 120 g column, 20-30% (3% Et3N in EtOAc)/Hex to give 1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)propan-1-one. MS (ESI) m/z: Calculated: 402.1; Observed: 403.0 (M++H).

reactant | Dess-Martin periodinane | 1.24 mmol, 0.524 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)propan-1-ol | 1.24 mmol, 0.500 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C(CC)O | C24H21FN2OS
reactant | dichloromethane | 1.24 mmol, 25.00 ml | ClCCl | CH2Cl2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)propan-1-one | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C(CC)=O | C24H19FN2OS
